US07125901B2
To a solution of 2-(3-bromophenyl)ethanol (7 g) in N,N-dimethylformamide (100 ml) were added tert-butyldimethylsilyl chloride (5.77 g) and imidazole (2.84 g) at 25° C. The mixture was stirred at 25° C. for 12 h. The reaction mixture was poured into water (500 ml) and extracted with ethyl acetate (100 ml×2). The combined organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography with mixed solvent of n-hexane and ethyl acetate to give [2-(3-bromophenyl)ethoxy](tert-butyl)dimethylsilane as colorless oil.

reactant | 2-(3-bromophenyl)ethanol | 7 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | tert-butyldimethylsilyl chloride | 5.77 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.84 g | N1C=NC=C1 | C3H4N2
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | [2-(3-bromophenyl)ethoxy](tert-butyl)dimethylsilane | BrC=1C=C(C=CC1)CCO[Si](C)(C)C(C)(C)C | C14H23BrOSi
